US07326806B2
15 mL of n-butanol and 0.5 g of the above-mentioned catalyst were sealed in a 100 mL autoclave equipped with a rotary agitator. The interior of the system was then pressurized to 0.3 MPa with oxygen, after which the temperature was raised to 90° C. under stirring, and this temperature was maintained for 5 hours. During this time the supply of oxygen was continued so as to maintain the above-mentioned internal pressure. The system was then cooled and the seal broken, and the reaction solution was analyzed, which revealed the n-butanol conversion to be 28%, and the butyl n-butyrate (the product) selectivity and yield to be 79% and 22%, respectively.

reactant | oxygen | O=O | O2
reactant | n-butanol | C(CCC)O | C4H10O
reactant | n-butanol | 15 mL | C(CCC)O | C4H10O
product | butyl n-butyrate | C(CCC)(=O)OCCCC | C8H16O2
